US05541307
2'-Deoxyadenosine was conveniently transformed into 5'-O-tert-butyldiphenylsilyl-2',3'-dideoxy-3'-C-styryladenosine in 60% yield utilizing the radical reaction described in Example 82 of application Ser. No. 08/040,903. The 5'-O-TBDPS group of the latter compound was deblocked to provide 2',3'-dideoxy-3'-C-styryladenosine in 91% yield, mp 215°-217° C. Anal.: C18H19N5O2.1/4 H2O Calcd.: C% 63.23; H% 5.74; N% 20.48; Found: C% 63.31; H% 5.68; N% 20.69.

reactant | 2'-Deoxyadenosine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O3
reactant | 5'-O-tert-butyldiphenylsilyl-2',3'-dideoxy-3'-C-styryladenosine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(N)=NC=NC12)C=CC1=CC=CC=C1 | C34H37N5O2Si
product | 2',3'-dideoxy-3'-C-styryladenosine | 91% yield | C(=CC1=CC=CC=C1)[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(N)=NC=NC12 | C18H19N5O2
